US07407691B2
A reaction mixture comprising 84 g of 3-[(6-bromohexyloxy)methyl]-3-methyloxetane, 50 g of ethyl 4-hydroxybenzoate, 50 g of potassium carbonate and 600 ml of dimethylformamide was stirred at 90° C. for 4 hours. Water was added to the reaction mixture and the reaction was stopped. This was extracted with ethyl acetate, and the organic layer was washed with aqueous 2 N-sodium hydroxide solution and water in that order, and then dried with anhydrous magnesium sulfate. The solvent was evaporated away, and the resulting residue was purified through silica gel chromatography (elution solvent:toluene/ethyl acetate=8/2), and 85 g of ethyl 4-[6-(3-methyloxetan-3-ylmethoxy)hexyloxy]benzoate was obtained.

reactant | 3-[(6-bromohexyloxy)methyl]-3-methyloxetane | 84 g | BrCCCCCCOCC1(COC1)C | C11H21BrO2
reactant | ethyl 4-hydroxybenzoate | 50 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 4-[6-(3-methyloxetan-3-ylmethoxy)hexyloxy]benzoate | 85 g | CC1(COC1)COCCCCCCOC1=CC=C(C(=O)OCC)C=C1 | C20H30O5
